US06187914B1
The synthesis of this product required the preparation of t-butylphenoxyacetyl chloride from sodium t-butylphenoxide and ethyl chloroacetate. The ethyl t-butylphenoxyacetate obtained is cleaved with potassium hydroxide in order to liberate the t-butylphenoxyacetic acid. The acid chloride is obtained by heating this acid in thionyl chloride. After removing the excess thionyl chloride, the t-butylphenoxyacetyl chloride is reacted with deoxyguanosine according to the procedure described by SCHULHOF et al. for 2-N-phenoxyacetyldeoxyguanosine [Nucleic Acids Res., 15(2), p. 397-415, (1987)].

reactant | t-butylphenoxyacetyl chloride | C(C)(C)(C)C(C(=O)Cl)OC1=CC=CC=C1 | C12H15ClO2
reactant | sodium t-butylphenoxide | C(C)(C)(C)C1=C([O-])C=CC=C1.[Na+]
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
product | ethyl t-butylphenoxyacetate | C(C)(C)(C)C(C(=O)OCC)OC1=CC=CC=C1 | C14H20O3
